US07507736B2
[6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone
The title compound was synthesized in analogy to example 1, from 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride (example 1, intermediate a) and 1-(cyclopropanecarbonyl)piperazine to afford the title compound as a light-yellow foam (48%).

reactant | 6-bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid hydrochloride | Cl.BrC1=C(C=C2C=C(NC2=C1)C(=O)O)OC1CCN(CC1)C(C)C
reactant | 1-(cyclopropanecarbonyl)piperazine | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
product | [6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone | 48% | BrC1=C(C=C2C=C(NC2=C1)C(=O)N1CCN(CC1)C(=O)C1CC1)OC1CCN(CC1)C(C)C | C25H33BrN4O3
